US07888118B2
Synthesis of 1-(8-amino-3,6-dioxaoctyl)-2-(2-fluorenyl)-4,5-bis(4-fluorophenyl)imidazole (Compound 6)
A solution of 4-nitrophenyl chloroformate (0.8 g, 4 mmol) in CH2Cl2 was added to a Wang resin (1 mmol) in CH2Cl2 (9 mL) and pyridine (3 mL). After shaking for 12 h, the resin was washed with 10% dimethylformamide (DMF) in CH2Cl2. A solution of 2,2′-(ethylenedioxy)bisethylenediamine (1.5 g, 10 mmol) and diisopropylethylamine (0.6 g, 5 mmol) in DMF was added to the resin. After shaking for 12 h, the resin was washed with DMF. The resin (7 μmol), 2-fluorenecarboxaldehyde (13 mg, 0.07 mmol), ammonium acetate (22 mg, 0.28 mmol) and 4,4′-difluorobenzil (17 mg, 0.07 mmol) was placed in a reaction vial and suspended in acetic acid (300 μL). The reaction vial was placed in a heat block on a shaker at 100□. The reaction vial was shaken for 5 h. The resin was filtered and washed with DMF, MeOH, and CH2Cl2 several times. The desired compound was cleaved from a solid support by treatment with trifluoroacetic acid (TFA) for 1.5 h. The crude product was directly purified by preparative RP-HPLC with a gradient of 5-100% CH3CN in water (0.1% TFA) over 85 min.

reactant | 4-nitrophenyl chloroformate | 4 mmol, 0.8 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 5 mmol, 0.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-fluorenecarboxaldehyde | 0.07 mmol, 13 mg | C1=C(C=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | ammonium acetate | 0.28 mmol, 22 mg | C(C)(=O)[O-].[NH4+]
reactant | 4,4′-difluorobenzil | 0.07 mmol, 17 mg | FC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)F | C14H8F2O2
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C=O)C | C3H7NO
solvent | acetic acid | 300 μL | C(C)(=O)O | C2H4O2
product | 1-(8-amino-3,6-dioxaoctyl)-2-(2-fluorenyl)-4,5-bis(4-fluorophenyl)imidazole | NCCOCCOCCN1C(=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C1=CC=2CC3=CC=CC=C3C2C=C1 | C34H31F2N3O2
